US07157476B2
N-Trifluoroacetyl-4-(5-(3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetyl)amino-[1,3,4]thiadiazol-2-yl)-furazan-3-ylamine:
Prepared from 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetic acid and N-(4-(5-amino-1,3,4-thiadiazol-2-yl)-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide by methods substantially similar to those described in Example 11, supra. Yield 30 mg.

reactant | 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetic acid | C(=O)(OC(C)(C)C)N1CCC(CC1)CCCOC=1C=C(C=CC1)CC(=O)O | C21H31NO5
reactant | N-(4-(5-amino-1,3,4-thiadiazol-2-yl)-1,2,5-oxadiazol-3-yl)-2,2,2-trifluoroacetamide | NC1=NN=C(S1)C=1C(=NON1)NC(C(F)(F)F)=O | C6H3F3N6O2S
product | N-Trifluoroacetyl-4-(5-(3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetyl)amino-[1,3,4]thiadiazol-2-yl)-furazan-3-ylamine | FC(C(=O)NC1=NON=C1C=1SC(=NN1)NC(CC1=CC(=CC=C1)OCCCC1CCN(CC1)C(=O)OC(C)(C)C)=O)(F)F | C27H32F3N7O6S
